US07521455B2
(2) Manufacture of 2-ethyl-3-(4-hydroxyphenyl)-4-(3H)-quinazolinone
2-ethyl-4H-3,1-benzoxazin-4-one (6.5 g, 37.1 mmol) and 4-aminophenol (4.05 g, 37.1 mmol) were dissolved in dimethylformamide (18 mL) and stirred at 140° C. for 10 hours. After leaving to cool to room temperature, distilled water (94 mL) was added, and the solid precipitate was filtered off. The product was recrystallized (ethanol) and the target compound (6.52 g, 66%) was obtained as light brown crystals.

reactant | 2-ethyl-4H-3,1-benzoxazin-4-one | 37.1 mmol, 6.5 g | C(C)C1=NC2=C(C(O1)=O)C=CC=C2 | C10H9NO2
reactant | 4-aminophenol | 37.1 mmol, 4.05 g | NC1=CC=C(C=C1)O | C6H7NO
solvent | dimethylformamide | 18 mL | CN(C=O)C | C3H7NO
product | 2-ethyl-3-(4-hydroxyphenyl)-4-(3H)-quinazolinone | 6.52 g, 66% | C(C)C1=NC2=CC=CC=C2C(N1C1=CC=C(C=C1)O)=O | C16H14N2O2
